US05905088
(d) Preparation of ethyl 4-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-1-propenyl]benzoate
A 30% sodium methoxide solution (1.31 ml) was added over 8 hours to a mixture of ethyl 4-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)-acetyl]benzoate (3.6 g, 7 mmol) and methyltriphenylphosphine bromide (3.4 g, 9.5 mmol) in THF (40 ml).

reactant | sodium methoxide | 1.31 ml | C[O-].[Na+]
reactant | ethyl 4-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)-acetyl]benzoate | 7 mmol, 3.6 g | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C25H29IO4
reactant | methyltriphenylphosphine bromide | 9.5 mmol, 3.4 g | [Br-].CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | ethyl 4-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-1-propenyl]benzoate | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCC=CC1=CC=C(C(=O)OCC)C=C1 | C26H31IO3
